US04003927
Powdered aluminum chloride (270 g., 2 moles) is added slowly at 0° C. to a stirred mixture of 2,3-dichloroanisole (177 g., 1.0 mole) and succinic anhydride (100 g., 1.0 mole) in methylene chloride (800 ml.). The mixture then is stirred at 0° C. for two hours, then at 20°-25° C. for 16 hours and then refluxed for one hour and poured into ice cold 1 N HCl (2.4 l.). The aqueous mixture is heated to 65° C. and allowed to cool to 20° C. The sticky solid that separates is triturated with warm butyl chloride to obtain 136 g. product, melting point 140°-145° C. After crystallization from ethanol-water (5:7) there is obtained 3-(2,3-dichloro-4-methoxybenzoyl)propionic acid (125 g.), melting point 142°-144° C..

reactant | aluminum chloride | 2 moles, 270 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,3-dichloroanisole | 1.0 mole, 177 g | ClC1=C(C=CC=C1Cl)OC | C7H6Cl2O
reactant | succinic anhydride | 1.0 mole, 100 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | methylene chloride | 800 ml | C(Cl)Cl | CH2Cl2
product | 3-(2,3-dichloro-4-methoxybenzoyl)propionic acid | 125 g | ClC1=C(C(=O)CCC(=O)O)C=CC(=C1Cl)OC | C11H10Cl2O4
